US07790715B2
c) 7-Bromomethyl-3,3-dimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one
The mixture of 3.10 g of 3,3,7-trimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one, 1.86 g of N-bromosuccinimide, 0.050 g of dibenzoyl peroxide and 0.033 g of 2,2′-azobis(2-methylpropionitrile) in 100 ml of carbon tetrachloride is kept at reflux with stirring over 2 hours. The reaction mixture is cooled and clarified by filtration, and the filtrate is concentrated by evaporation. The title compound is obtained as a beige solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.42 (1:10 EtOAc-heptane); Rt=26.45 (II).

reactant | 3,3,7-trimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one | 3.10 g | CC1(C(N(C2=C(C=CC=C12)C)COCC[Si](C)(C)C)=O)C | C17H27NO2Si
reactant | N-bromosuccinimide | 1.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 0.050 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.033 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-3,3-dimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one | BrCC=1C=CC=C2C(C(N(C12)COCC[Si](C)(C)C)=O)(C)C | C17H26BrNO2Si
